US09340556B2
To a suspension of ethyl 1-ethyl-5,6-dihydroxy-4-oxo-1,4-dihydroquinoline-3-carboxylate (5 g, 18.03 mmol) and potassium carbonate (8.72 g, 63.1 mmol) in Acetone (120 mL) at r.t. was added 4-methoxybenzyl chloride (7.37 mL, 54.1 mmol) and KI (0.599 g, 3.61 mmol). The mixture was heated under reflux for 2 days. After cooling, the reaction mixture was filtered and the filtrate was concentrated. The residue was partitioned between DCM and water, and the organic layer was washed with sat. NaHCO3 and brine, dried over Na2SO4 and concentrated. The crude product was purified by normal phase automatic silica column chromatography (Combiflash RF), eluting with EtOAc/hexanes (0-100%) to afford ethyl 1-ethyl-5-hydroxy-6-((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylate (1.5 g, 3.77 mmol, 20.9% yield) as a light yellow solid that contained some PMB-ester. LCMS: (M+H)+: 398.3.

reactant | ethyl 1-ethyl-5,6-dihydroxy-4-oxo-1,4-dihydroquinoline-3-carboxylate | 18.03 mmol, 5 g | C(C)N1C=C(C(C2=C(C(=CC=C12)O)O)=O)C(=O)OCC | C14H15NO5
reactant | potassium carbonate | 63.1 mmol, 8.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methoxybenzyl chloride | 54.1 mmol, 7.37 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | Acetone | 120 mL | CC(=O)C | C3H6O
product | ethyl 1-ethyl-5-hydroxy-6-((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylate | 3.77 mmol, 1.5 g, 20.9% yield | C(C)N1C=C(C(C2=C(C(=CC=C12)OCC1=CC=C(C=C1)OC)O)=O)C(=O)OCC | C22H23NO6
